US08557832B2
trans-2-[6-[(6-chloropyridin-3-yl)methyl]-4-oxobenzo[h]quinazolin-3(4H)-yl]cyclohexyl rac-acetate
To a solution of rac-6-[(6-chloropyridin-3-yl)methyl]-3-[trans-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one (0.040 g, 0.095 mmol) in 2 mL of CH2Cl2 at 0° C. was added acetic anhydride (0.011 mL, 0.11 mmol) and triethylamine (0.026 mL, 0.20 mmol). The mixture was warmed to rt and after 15 h, concentrated in vacuo. The residue was purified via preparative reverse phase HPLC to provide the title compound that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 461.9 for [M+H]+.

reactant | rac-6-[(6-chloropyridin-3-yl)methyl]-3-[trans-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one | 0.095 mmol, 0.040 g | ClC1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@H]2[C@@H](CCCC2)O)=O | C24H22ClN3O2
reactant | acetic anhydride | 0.11 mmol, 0.011 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.20 mmol, 0.026 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | trans-2-[6-[(6-chloropyridin-3-yl)methyl]-4-oxobenzo[h]quinazolin-3(4H)-yl]cyclohexyl rac-acetate | C(C)(=O)O[C@H]1[C@@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=NC(=CC1)Cl)C=CC=C3 | C26H24ClN3O3
